US04205085
4-[15-(Trifluoromethyl)pentadecylamino]-N-(phenylsulfonyl)benzamide
A solution of 31.4 g. of benzenesulfonamide in 250 ml. of dry dimethylacetamide is added dropwise, with stirring and cooling, to a suspension of 5.5 g. of sodium hydride in 100 ml. of dry dimethylacetamide during 30 minutes at room temperature. Stirring is continued for 30 minutes. In the meantime, a mixture of 36.2 g. of 4-[15-(trifluoromethyl)pentadecylamino]benzoic acid in 100 ml. of methylene chloride, 300 ml. of dimethoxyethane, and 40 ml. of thionyl chloride is refluxed for 1 hour and 15 minutes. The solution is evaporated and to the resulting oil residue is added, in one portion, the previously prepared mixture of sodium benzenesulfonamide in dimethylacetamide. The mixture is stirred for 30 minutes, without cooling, and then filtered. The filtrate is poured into 2 liters of water and 250 ml. of saturated sodium chloride solution. The product is collected by filtration and then dissolved in methylene chloride, the mixture is filtered through diatomaceous earth, and brine is added to break the emulsion. The layers are separated, the organic phase is dried and evaporated. The residue is crystallized from toluene to yield the product as a white solid.

reactant | benzenesulfonamide | C1(=CC=CC=C1)S(=O)(=O)N | C6H7NO2S
reactant | sodium hydride | [H-].[Na+]
reactant | 4-[15-(trifluoromethyl)pentadecylamino]benzoic acid | FC(CCCCCCCCCCCCCCCNC1=CC=C(C(=O)O)C=C1)(F)F | C23H36F3NO2
reactant | thionyl chloride | S(=O)(Cl)Cl | Cl2OS
solvent | dimethoxyethane | C(OC)COC | C4H10O2
solvent | methylene chloride | C(Cl)Cl | CH2Cl2
solvent | dimethylacetamide | CC(=O)N(C)C | C4H9NO
product | 4-[15-(Trifluoromethyl)pentadecylamino]-N-(phenylsulfonyl)benzamide | FC(CCCCCCCCCCCCCCCNC1=CC=C(C(=O)NS(=O)(=O)C2=CC=CC=C2)C=C1)(F)F | C29H41F3N2O3S
